US07902252B2
4.11. Synthesis of methyl 6-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (447 mg, 2.5 mmol) was reacted with (3-fluorophenyl)magnesium bromide (0.5 M in hexanes, 13 mL, 6.3 mmol) according to General Procedure 3. The resulting crude product was converted to the title compound by hydrogenation according to General Procedure 6 (with 5% Pd/C). The crude product was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 40% EtOAc. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.24-2.35 (m, 1H), 2.61-2.71 (m, 1H), 2.71-2.81 (m, 1H), 2.87-2.98 (m, 1H), 3.81 (s, 3H), 4.24 (t, J=7.54 Hz, 1H), 6.71 (d, J=1.51 Hz, 1H), 6.81 (dt, J=9.81, 1.85 Hz, 1H), 6.88-6.93 (m, 2H), 7.25 (s, 1H), 8.60 (br. s, 1H).

reactant | methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.5 mmol, 447 mg | O=C1CCC2=C1NC(=C2)C(=O)OC | C9H9NO3
reactant | (3-fluorophenyl)magnesium bromide | 6.3 mmol, 0.5 M, 13 mL | FC=1C=C(C=CC1)[Mg]Br
catalyst | Pd/C | [Pd] | Pd
product | methyl 6-(3-fluorophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | FC=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)OC | C15H14FNO2
